US09382226B2
Step C. 1-cyclopropyl-2-(pyridin-3-yl)-1H-benzo[d]imidazole-6-carbonitrile (75)
To a solution of 4-amino-3-(cyclopropylamino) benzonitrile, (0.2 g, 0.0011 mol) and nicotinaldehyde (0.14 g, 0.0012 mol) in DMF (5 ml) and H2O (2 ml) was added OXONE® monopersulphate (0.84 g, 0.0013 mol). Reaction mass was stirred at room temperature for 3 h. The reaction mixture was basified with 10% K2CO3 solution to pH˜8-10 and extracted with EtOAc (3×20 ml). The combined organic layers were washed with brine, dried over Na2SO4 and concentrated under vacuum to afford the crude compound, which was purified by column chromatography to obtain title compound 1-cyclopropyl-2-(pyridine-3-yl)-1H-benzo[d]imidazole-6-carbonitrile. 1H NMR (400 MHz, DMSO-d6), δ: 9.21 (s, 1H), 8.77-8.76 (d, J=4.4 Hz, 1H), 8.45-8.43 (d, J=8 Hz, 1H), 8.25 (s, 1H), 7.89-7.87 (d, J=8 Hz, 1H), 7.68-7.61 (m, 2H), 3.91-3.87 (m, 1H), 1.17-1.12 (m, 2H), 0.71-0.70 (m, 2H). MS (M+1): 261.12; purity 97.77%.

reactant | 4-amino-3-(cyclopropylamino) benzonitrile | 0.0011 mol, 0.2 g | NC1=C(C=C(C#N)C=C1)NC1CC1 | C10H11N3
reactant | nicotinaldehyde | 0.0012 mol, 0.14 g | C(C1=CN=CC=C1)=O | C6H5NO
reactant | OXONE | OOS(=O)[O-].[K+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | H2O | 2 ml | O | H2O
product | 1-cyclopropyl-2-(pyridine-3-yl)-1H-benzo[d]imidazole-6-carbonitrile | C1(CC1)N1C(=NC2=C1C=C(C=C2)C#N)C=2C=NC=CC2 | C16H12N4
